US03996227
Preparation of 1-methyl-N-(3-methylcyclohexylidene)-ethylamine.
To a mixture of 112 g. 3-methyl cyclohexanone and 120 g. isopropylamine are added 100 g. Linde Type 3A molecular sieves. The mixture is allowed to stand overnight at room temperature, after which the sieves are removed by filtration and the excess of isopropylamine is removed in vacuo at room temperature. The oil residue is 1-methyl-N-(3-methylcyclohexylidene)-ethylamine, b.p. 36 at 0.5 mm.

reactant | 3-methyl cyclohexanone | CC1CC(CCC1)=O | C7H12O
reactant | isopropylamine | C(C)(C)N | C3H9N
product | 1-methyl-N-(3-methylcyclohexylidene)-ethylamine | CC(C)N=C1CC(CCC1)C | C10H19N
